US07741323B2
1-Oxo-3-phenyl-6-(3-phenylpropoxy)-1H-indene-2-carbonitrile (200 mg, 0.547 mmol) was dissolved in ethanol. Hydroxy amine.hydrochloric acid (114 mg, 1.64 mmol) and pyridine (173 mg, 2.18 mmol) were added thereto and the mixture was stirred for 4 hours at 70° C. The organic layer extracted with ethyl acetate was washed with distilled water, dried over anhydrous magnesium sulfate, concentrated, and the resulting residue was purified by column chromatography (ethyl acetate:hexane=1:2) to obtain trails 1-hydroxy imino-3-phenyl-6-(3-phenylpropyloxy)-1H-indene-2-carbonitrile (95 mg, yield 45%) as a red solid,

reactant | 1-Oxo-3-phenyl-6-(3-phenylpropoxy)-1H-indene-2-carbonitrile | 0.547 mmol, 200 mg | O=C1C(=C(C2=CC=C(C=C12)OCCCC1=CC=CC=C1)C1=CC=CC=C1)C#N | C25H19NO2
reactant | Hydroxy amine | ON | H3NO
reactant | hydrochloric acid | 1.64 mmol, 114 mg | Cl | ClH
reactant | pyridine | 2.18 mmol, 173 mg | N1=CC=CC=C1 | C5H5N
solvent | ethanol | C(C)O | C2H6O
product | 1-hydroxy imino-3-phenyl-6-(3-phenylpropyloxy)-1H-indene-2-carbonitrile | 95 mg, yield 45% | ON=C1C(=C(C2=CC=C(C=C12)OCCCC1=CC=CC=C1)C1=CC=CC=C1)C#N | C25H20N2O2
